US07262212B2
To a suspension of (S)-1-(2-methyloxiran-2-ylmethyl)-4-(4-trifluoromethoxyphenyl)piperazine (0.43 g, 1.37 mmol) and 2-chloro-4-nitro-1H-imidazole (0.22 g, 1.51 mmol) in acetonitrile (4 ml), sodium hydrogencarbonate (0.17 g, 2.06 mmol) was added followed by stirring under reflux for 9 hours. To the reaction mixture, water was added, and the mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to afford (S)-1-(2-chloro-4-nitroimidazol-1-yl)-2-methyl-3-[4-(4-trifluoromethoxyphenyl)piperazin-1-yl]propan-2-ol (0.20 g, yield 31%) as a light yellow oil.

reactant | (S)-1-(2-methyloxiran-2-ylmethyl)-4-(4-trifluoromethoxyphenyl)piperazine | 1.37 mmol, 0.43 g | C[C@]1(OC1)CN1CCN(CC1)C1=CC=C(C=C1)OC(F)(F)F | C15H19F3N2O2
reactant | 2-chloro-4-nitro-1H-imidazole | 1.51 mmol, 0.22 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | sodium hydrogencarbonate | 2.06 mmol, 0.17 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | (S)-1-(2-chloro-4-nitroimidazol-1-yl)-2-methyl-3-[4-(4-trifluoromethoxyphenyl)piperazin-1-yl]propan-2-ol | 0.20 g, yield 31% | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@](CN1CCN(CC1)C1=CC=C(C=C1)OC(F)(F)F)(O)C | C18H21ClF3N5O4
